US09403831B2
(S)-2-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-1H-pyrazol-1-yl)ethanol hydrochloride (Salt of Chemical Formula 11)
(2S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine 290 mg (0.51 mmol) was dissolved in MC 20 ml, and 4 M HCl in dioxane 2 ml was added. The mixture was stirred at room temperature overnight, and when the reaction was completed, the reaction mixture was concentrated under reduced pressure. MC and 4 M HCl in dioxane were removed, and ether was added to precipitate a solid, followed by decanting, to give a product 236 mg (89%).

reactant | (2S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine | 0.51 mmol, 290 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C=2C=NN(C2)CCOC2OCCCC2 | C27H32N12O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-1H-pyrazol-1-yl)ethanol hydrochloride | 236 mg, 89% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C=2C=NN(C2)CCO | InChI=1S/C22H24N12O2.ClH/c1-31-11-17(9-26-31)19-10-23-20-21(28-19)34(30-29-20)14-18-13-32(3-5-36-18)22-24-6-15(7-25-22)16-8-27-33(12-16)2-4-35;/h6-12,18,35H,2-5,13-14H2,1H3;1H/t18-;/m0./s1
